US07576108B2
d: (E)-3-Cyclopentyl-2-[4-(pyridin-3-ylmethanesulfonyl)-phenyl]-prop-2-en-1-ol
Following the method of example 54e, reduction of (E)-3-cyclopentyl-2-[4-(pyridin-3-ylmethanesulfonyl)-phenyl]-acrylic acid ethyl ester (2.43 g, 6.08 mmol) with DIBAL in toluene (12.61 mL, 15.2 mmol) gives the title compound as an amorphous solid (1.26 g).

reactant | (E)-3-cyclopentyl-2-[4-(pyridin-3-ylmethanesulfonyl)-phenyl]-acrylic acid ethyl ester | 6.08 mmol, 2.43 g | C(C)OC(\C(=C\C1CCCC1)\C1=CC=C(C=C1)S(=O)(=O)CC=1C=NC=CC1)=O | C22H25NO4S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 15.2 mmol, 12.61 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-Cyclopentyl-2-[4-(pyridin-3-ylmethanesulfonyl)-phenyl]-prop-2-en-1-ol | 1.26 g | C1(CCCC1)/C=C(/CO)\C1=CC=C(C=C1)S(=O)(=O)CC=1C=NC=CC1 | C20H23NO3S
